US07737141B2
Synthesis of 1-acetoxymethyl-3-[4-{1-[(S)-1-(4-fluorophenyl)ethyl]-2-oxopiperidin-(3E)-ylidenemethyl]-2-methoxyphenyl}-5-methyl-3H-imidazol-1-ium iodide
Sodium iodide (54 mg) and IPEA (0.05 mL) were added to a DME solution (2 mL) of (E)-1-[(1S)-1-(4-fluorophenyl)ethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one (CAS Registry No. 870843-42-8, 100 mg) and chloromethyl acetate (0.03 mL), and the resulting reaction solution was stirred at 80° C. for 1 hr. The reaction solution was allowed to cool to room temperature, and the precipitated solid was collected by filtration. The obtained solid was washed with diethylether and dried in air to give 70 mg of the title compound. The physical property values of this compound were as follows:

reactant | Sodium iodide | 54 mg | [I-].[Na+]
reactant | IPEA | 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-1-[(1S)-1-(4-fluorophenyl)ethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | FC1=CC=C(C=C1)[C@H](C)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H26FN3O2
reactant | chloromethyl acetate | 0.03 mL | C(C)(=O)OCCl | C3H5ClO2
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 1-acetoxymethyl-3-[4-{1-[(S)-1-(4-fluorophenyl)ethyl]-2-oxopiperidin-(3E)-ylidenemethyl]-2-methoxyphenyl}-5-methyl-3H-imidazol-1-ium iodide | 70 mg | [I-].C(C)(=O)OC[N+]1=CN(C=C1C)C1=C(C=C(C=C1)/C=C\1/C(N(CCC1)[C@@H](C)C1=CC=C(C=C1)F)=O)OC | InChI=1S/C28H31FN3O4.HI/c1-19-16-30(17-31(19)18-36-21(3)33)26-12-7-22(15-27(26)35-4)14-24-6-5-13-32(28(24)34)20(2)23-8-10-25(29)11-9-23;/h7-12,14-17,20H,5-6,13,18H2,1-4H3;1H/q+1;/p-1/b24-14+;/t20-;/m0./s1
